Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Aspirin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Abnormal MRI, L facial pain/sensory changes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ year old woman with history of
scleritis responsive to steroids, chronic left sided headaches
with prior normal MRI/MRA/MRV who presents after today's MRI
showed pachymeningeal enhancement and thickening in the setting
of two weeks of new left facial pain and sensory changes. 

A new symptoms started about two weeks ago. She had worsening
retro-orbital eye pain, jaw pain and sensory changes in the 
V2/V3
distribution. She describes these sensory changes as
pins/needles/tingling but also occasional flashes of burning
sensation. No numbness or loss of sensation but does endorse
touch as feeling differently. Jaw pain is in the posterior
mandible area with chewing and opening her mouth wide. No facial
weakness. Swallowing and speech are normal. The pain in the 
cheek
and gums vary throughout the day. Chewing does make is worse but
not severely so. These new symptoms are off and on. She saw a
dentist at one point that said her exam was normal and she saw
her opthalmologist who did a dilated eye exam and said also
normal. Her headache has improved which she attributes to the
increased gabapentin, now on 400mg BID, headache currently ___.
She is also taking less OTC meds. Given her new ___ MRI
obtained today showed new findings (see below). Additionally 
labs
notable for ESR 55 and initially borderline lyme abs but western
blot neg.

 
Past Medical History:
Scleritis treated with steroids, dx'd ___, gets a flare every
year or so, last ___, no similar ___ currently
G6PD deficiency
HTN and Chronic headaches, per Dr. ___:
she was diagnosed with high blood pressure this ___. She was
also started on OCPs this ___. She is not
sure if the BP was high before that. She had not seen an MD for 
___
years before that. She had normal BP a year or 2 after the birth
of her last child ___ years.
She went oral contraceptives for the first time in ___ and
developed headaches the next day. The headaches were the whole
head and without other symptoms, non-positional, moderate. She
had the HA every day, for at least part of the day. She was then
taken off the pill after 10 days on it. The headaches improved
after going of OCPS. They returned close to her baseline of mild
intermittent headache.
Then headaches worsened again around the same time she was
diagnosed with high BP. She was started on Atenolol for high BP. 

These HAs were the whole head, non-positional with some nausea 
at
times but no vision change or weakness or numbness. She felt
tired. No fever or rash.  They were constant, moderate to 
severe.
She went to the ED ___ as the HAs were persistent despite
starting treatment for high BP. She rerots BP was high -possible
167/100. HA was throbbing and one sided . She was treated with
"migraine cocktail" IV with benefit. Head CT was reported to her
as normal. HA resolved. 

There is daily nausea with the HA but no vomiting. She sometimes
feels light headed with standing (since start of BP medication).
There is pain behind the left eye. There is no vision loss or
positive visual change, mental status change, hearing loss,
numbness or weakness.

In the past she had a headache occasionally, which were mild and
she does not recall the location. There were no other features . 

She would take nothing a Tylenol with relief. These were not 
with
her period and there was no clear trigger. 

 
Social History:
___
Family History:
no neurologic disease.
mother and father have hypertension
sons age ___ and ___orther and sister are well. 
no autoimmune conditions that run in the family
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:  T 97.7, HR 82, RR 18, BP 149/92, 100%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Language 
is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Pt was able to name both high
and low frequency objects. Speech was not dysarthric. Able to
follow both midline and appendicular commands.

-Cranial Nerves:
II: PERRL 3 to 2mm and brisk. VFF to confrontation. Fundoscopic
exam performed, revealed crisp disc margins with no papilledema,
exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch thought pt reported it
felt different (not more or less). Cold hands more cold on the
left. Pinprick "felt different". All in V2, V3 distribution 
only.

VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibration. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat         Ach
L  2  2    2    2 (brisk)   1
R  2  2    2    2 (brisk)   1

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

===
DISCHARGE PHYSICAL EXAM

Temp: 98.7 PO BP: 106/66 HR: 76 RR: 18 O2 sat: 98%
O2 delivery: ___ 

___: awake, cooperative, NAD, NC/AT, no scleral icterus
noted, MMM, no lesions noted in oropharynx, breathing non 
labored
on room air, warm and well perfused, no cyanosis, clubbing or
edema bilaterally, no rashes or lesions noted.

Neurologic: awake, alert, language fluent, no dysarthria, able 
to
follow truncal and appendicular commands, VFF EOMI, PERRL, mild
TTP on L TMJ, decreased sensation on the R face to pinprick and
light touch, otherwise sensation intact throughout, no pronator
drift, FTN intact bilaterally. 2 beats of clonus @ L ankle, L
patellar reflex 3+, R pat 2+
 
Pertinent Results:
___ 09:01PM BLOOD WBC-5.2 RBC-3.95 Hgb-10.7* Hct-35.5 
MCV-90 MCH-27.1 MCHC-30.1* RDW-12.9 RDWSD-42.7 Plt ___
___ 10:17PM BLOOD ___ PTT-35.8 ___
___ 09:01PM BLOOD Glucose-92 UreaN-14 Creat-1.0 Na-141 
K-3.7 Cl-101 HCO3-26 AnGap-14
___ 09:01PM BLOOD ALT-11 AST-17 AlkPhos-87 TotBili-0.2
___ 02:58PM BLOOD TotProt-6.1*
___ 09:01PM BLOOD Albumin-4.3 Calcium-9.7 Phos-3.9 Mg-2.3
___ 02:58PM BLOOD ___ CRP-2.1 dsDNA-NEGATIVE
___ 02:58PM BLOOD PEP-NO SPECIFI IFE-NO MONOCLO
___ 02:58PM BLOOD HIV Ab-NEG
___ 09:01PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ 01:11AM CEREBROSPINAL FLUID (CSF) TNC-0 RBC-0 Polys-15 
___ ___ 12:50AM CEREBROSPINAL FLUID (CSF) IPT-DONE
___ 12:50AM CEREBROSPINAL FLUID (CSF) TotProt-27 Glucose-56

 
Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          43  H               < OR = 20 mm/h
___   

Test                          Result              Reference 
Range/Units
SM ANTIBODY                   <1.0 NEG            <1.0 NEG AI

Test                          Result              Reference 
Range/Units
SJOGREN'S ANTIBODY (SS-A)     <1.0 NEG            <1.0 NEG AI
SJOGREN'S ANTIBODY (SS-B)     <1.0 NEG            <1.0 NEG AI

Test                          Result              Reference 
Range/Units
RNP ANTIBODY                  <1.0 NEG            <1.0 NEG AI

 
Test                          Result              Reference 
Range/Units
ANGIOTENSIN-1-CONVERTING      36                  ___ U/L
ENZYME  

___ 12:50 am CSF;SPINAL FLUID

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   FLUID CULTURE (Final ___: 
      Reported to and read back by ___ ___ ___ 12:20PM. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    1 COLONY ON 1 
PLATE. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
GENTAMICIN------------ <=0.5 S
OXACILLIN-------------<=0.25 S
VANCOMYCIN------------     1 S

CSF MULTIPLE SCLEROSIS PANEL -- NEGATIVE

CSF CYTOLOGY:
Cerebrospinal fluid:
NEGATIVE FOR MALIGNANT CELLS.
Lymphocytes and monocytes. 

CT C/A/P W/ CONTRAST:

IMPRESSION: 
 
No acute intrathoracic/abdominal/pelvic process.
 
Fibroid uterus.

CTA HEAD W/W/O CONTRAST:

IMPRESSION:
 
 
1. Normal head CTA.

 
Brief Hospital Course:
___ w/ hx of scleritis responsive to steroids chronic left sided 
headaches with prior normal MRI/MRA/MRV who presents after an 
MRI showed pachymeningeal enhancement and thickening in the 
setting of two weeks of new left facial pain and sensory 
changes. Differential remains wide. However, the patient's pain 
is well-controlled on current regimen. Residual numbness on R 
face remains, but sensation otherwise intact throughout.

#LEFT-SIDED FACIAL PAIN AND NUMBNESS/TINGLING: a wide 
differential diagnoses were considered, including Sjogren's, 
Lupus, sarcoidosis, MS, and other paraneoplastic and autoimmune 
processes, in addition to infectious and structural etiologies. 
CT/CTA of head showed normal vessels and no intracranial 
pathologies, no signs of vasculitis. LP was done, and CSF, 
collected. CSF analyses were all WNL with 0 cells and 27 
protein. Rheumatologic workup, including ___, dsDNA, MS ___, 
___, ESR, CRP, Sjogren's, ACE, PEP, and IFE were sent. 
ESR returned as 43 (elevated), lower than it had been as an 
outpatient, 55. CT torso did not reveal any abnormalities, no 
signs of sarcoid. At the time of the discharge, much of the 
rheumatologic work up were still pending. However, as the 
patient's symptoms have nearly resolved, it was thought that the 
work up can be followed up as outpatient by the patient's 
neurologist, as there was not felt to be further inpatient 
testing that could be done.

#HTN: the patient's home medications were continued during this 
hospitalization.

===
Transitional issues:

[] Please follow up the rheumatological workup obtained during 
this hospitalization: ___, dsDNA, MS ___, 
anti-RNP, SSA/SSB, PEP, IFE

[] Please uptitrate the patient's gabapentin dose, as she 
responds well to it for her facial pain.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 400 mg PO BID 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Verapamil SR 120 mg PO Q24H 
4. Acetaminophen 500 mg PO DAILY:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO DAILY:PRN Pain - Mild/Fever  
2.  Gabapentin 400 mg PO BID  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Verapamil SR 120 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Autoimmune-mediated L facial paresthesia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ after having a chronic left-sided 
headache and left facial numbness/tingling and an MRI of your 
head that showed a possible abnormality. Given your history of 
scleritis, it was thought that your symptoms could potentially 
be due to an autoimmune process, which is when your body 
responds in a way that damages itself. 

You were continued on gabapentin, which is one of your home 
medications, that helped with your headache. Imaging of the 
blood vessels in your head were done, which showed no 
abnormality. The CT of your chest and abdomen were done to find 
look for any abnormalities. The CT scan was normal

Many labs were sent to investigate for different autoimmune 
processes, and at the time of your discharge, most of them are 
pending. However, as your symptoms gradually resolved, it was 
determined to be safe for you to be discharged back home, with a 
close follow up with your outpatient neurologist. We did speak 
with neurosurgery about the feasibility of a biopsy, they did 
not think that it would be easy to get to the area in question. 
As such we did not recommend this at this time.

There were no medications changes made during this 
hospitalization. So please take your medications as they were 
previously prescribed. 

Please follow up with your outpatient neurologist as listed 
below.

It was our pleasure taking care of you!

Sincerely,

Your ___ neurology team
 
Followup Instructions:
___